US05221694
Synthesis of N-3-chlorobenzyl-N-2-(2,4-dichlorophenoxy)ethylamine (compound No. 2).
2.70 Grams (10.0 mmol) of 2-(2,4-dichlorophenoxy)ethyl bromide was dissolved in 30 ml of ethanol, followed by the addition of 1.06 g (10.0 mmol) of anhydrous sodium carbonate and 4.25 g (30.0 mmol) of 3-chlorobenzylamine. The mixture was refluxed for 6 hours on an oil bath. After cooling, the reaction mixture was poured into 100 ml of water and was extracted with chloroform (20 ml×3).

reactant | 2-(2,4-dichlorophenoxy)ethyl bromide | 10.0 mmol | ClC1=C(OCCBr)C=CC(=C1)Cl | C8H7BrCl2O
reactant | sodium carbonate | 10.0 mmol, 1.06 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-chlorobenzylamine | 30.0 mmol, 4.25 g | ClC=1C=C(CN)C=CC1 | C7H8ClN
reactant | water | 100 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-3-chlorobenzyl-N-2-(2,4-dichlorophenoxy)ethylamine | ClC=1C=C(CNCCOC2=C(C=C(C=C2)Cl)Cl)C=CC1 | C15H14Cl3NO
